US07015218B1
N-(3-Cyano-4-neopentyloxyphenyl)-N-[1-(4-fluorophenyl) pyrazol-4-ylcarbonyl]glycine
Ethyl N-(3-cyano-4-neopentyloxyphenyl)-N-[1(4-fluorophenyl)pyrazol-4-ylcarbonyl]glycine (1.5 g) was added to ethanol (15 ml). 10% aqueous sodium hydroxide solution (10 ml) was added and the mixture was stirred at a refluxing temperature for 30 min. The solvent was evaporated under reducer pressure. To the residue was added dilute hydrochloric acid and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, after which the solvent was evaporated under reduced pressure. A mixed solvent of chloroform-n-hexane was added to the residue to allow crystallization. The crystals were recrystallized from hydrous acetic acid to give the title compound (0.9 g), melting point: 274–275° C./decomposition

reactant | Ethyl N-(3-cyano-4-neopentyloxyphenyl)-N-[1(4-fluorophenyl)pyrazol-4-ylcarbonyl]glycine | 1.5 g | C(C)C(N(C(=O)C=1C=NN(C1)C1=CC=C(C=C1)F)C1=CC(=C(C=C1)OCC(C)(C)C)C#N)C(=O)O | C26H27FN4O4
reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | N-(3-Cyano-4-neopentyloxyphenyl)-N-[1-(4-fluorophenyl) pyrazol-4-ylcarbonyl]glycine | 0.9 g | C(#N)C=1C=C(C=CC1OCC(C)(C)C)N(CC(=O)O)C(=O)C=1C=NN(C1)C1=CC=C(C=C1)F | C24H23FN4O4
